US07838543B2
Step 3. 2′-Chloro-4′-methoxy-biphenyl-4-carboxylic acid {2-[methyl-(1-methyl-pyrrolidin-3-yl)-amino]-benzothiazol-6-yl}-amide
The title compound is prepared by following Method A, using 2′-chloro-4′-methoxy-biphenyl-4-carboxylic acid (0.26 g, 0.99 mmol), and isomer-1 of N*2*-Methyl-N*2*-(1-methyl-pyrrolidin-3-yl)-benzothiazole-2,6-diamine (0.20 g, 0.76 mmol) to afford the product (0.125 g, 32%). LC/MS: Retention time=5.27 min; (m/z): calcd for C27H27ClN4O2S. m/e: 507.1; found: 507.0.

reactant | 2′-chloro-4′-methoxy-biphenyl-4-carboxylic acid | 0.99 mmol, 0.26 g | ClC1=C(C=CC(=C1)OC)C1=CC=C(C=C1)C(=O)O | C14H11ClO3
reactant | N*2*-Methyl-N*2*-(1-methyl-pyrrolidin-3-yl)-benzothiazole-2,6-diamine | 0.76 mmol, 0.20 g | CN(C=1SC2=C(N1)C=CC(=C2)N)C2CN(CC2)C | C13H18N4S
product | 2′-Chloro-4′-methoxy-biphenyl-4-carboxylic acid {2-[methyl-(1-methyl-pyrrolidin-3-yl)-amino]-benzothiazol-6-yl}-amide | CN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=CC=C(C=C2)C2=C(C=C(C=C2)OC)Cl)C2CN(CC2)C | C27H27ClN4O2S
